US06683183B2
To 17.0 g (78.98 mmol) of 5-hydroxy-3-methylsulfanyl-1,2,4-triazine-6-carboxylic acid, ethyl ester was added 86 mL (1184.7 mmol) of thionyl chloride. The reaction mixture was heated to 75° C. for 2 hours, cooled, and concentrated. The residue was twice suspended in toluene and concentrated to give a yellow-orange solid, 5-chloro-3-methylsulfanyl-1,2,4-triazine-6-carboxylic acid, ethyl ester.

reactant | 5-hydroxy-3-methylsulfanyl-1,2,4-triazine-6-carboxylic acid, ethyl ester | 78.98 mmol, 17.0 g | OC=1N=C(N=NC1C(=O)OCC)SC | C7H9N3O3S
reactant | thionyl chloride | 1184.7 mmol, 86 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-3-methylsulfanyl-1,2,4-triazine-6-carboxylic acid, ethyl ester | ClC=1N=C(N=NC1C(=O)OCC)SC | C7H8ClN3O2S
